US05500453
A solution of 1.75 g of lithium allyltriethylborate in 50 ml of acetonitrile was added to solution of 5.00 g of diphenyl(p-cyanophenacyl)sulfonium tetrafluoroborate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 3.41 g of diphenyl(p-cyanophenacyl)sulfoniumallyltriethylborate.

reactant | lithium allyltriethylborate | 1.75 g | C(C=C)[B-](CC)(CC)CC.[Li+]
reactant | diphenyl(p-cyanophenacyl)sulfonium tetrafluoroborate | 5.00 g | F[B-](F)(F)F.C1(=CC=CC=C1)[S+](CC(=O)C1=CC=C(C=C1)C#N)C1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenyl(p-cyanophenacyl)sulfoniumallyltriethylborate | 3.41 g | C(C=C)[B-](CC)(CC)CC.C1(=CC=CC=C1)[S+](CC(=O)C1=CC=C(C=C1)C#N)C1=CC=CC=C1 | InChI=1S/C21H16NOS.C9H20B/c22-15-17-11-13-18(14-12-17)21(23)16-24(19-7-3-1-4-8-19)20-9-5-2-6-10-20;1-5-9-10(6-2,7-3)8-4/h1-14H,16H2;5H,1,6-9H2,2-4H3/q+1;-1
